US07119122B2
4-Chloro-2-fluorobenzonitrile (0.974 g, 6.26 mmol), 3-dimethylaminomethyl-2-methylsulfanyl-phenol hydrobromide (1.74 g, 6.26 mmol) and cesium carbonate (4.08 g, 12.5 mmol) were heated with stirring in dry DMF (4 mL) at 50° C. for 17 h. The reaction was complete by LC/MS analysis. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with water (1×), 10%-sodium carbonate solution (2×), water (2×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-chloro-2-(3-dimethylaminomethyl-2-methylsulfanyl-phenoxy)-benzonitrile (1.2 g, 58%) as a yellow oil. Fumaric acid (92 mg, 0.3 mmol) in methanol (5 mL) was added to 4-chloro-2-(3-dimethylaminomethyl-2-ethylsulfanyl-phenoxy)-benzonitrile (91 mg, 0.26 mmol). The solvent was removed in vacuo and diethyl ether (20 mL) was added with stirring. After 17 h, 4-chloro-2-(3-dimethylaminomethyl-2-methysulfanyl-phenoxy)-benzonitrile fumarate (63.2 mg, 47%) was filtered off as a white solid.

reactant | 4-Chloro-2-fluorobenzonitrile | 6.26 mmol, 0.974 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-dimethylaminomethyl-2-methylsulfanyl-phenol hydrobromide | 6.26 mmol, 1.74 g | Br.CN(C)CC=1C(=C(C=CC1)O)SC
reactant | cesium carbonate | 12.5 mmol, 4.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-(3-dimethylaminomethyl-2-methylsulfanyl-phenoxy)-benzonitrile | 1.2 g, 58% | ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)CN(C)C)SC | C17H17ClN2OS
